US04150139
The reaction of 8-methoxy-3-methylsulfonyl-11H-s-triazolo[3,4-b][3]benzazepine with sodium methoxide yielded 3,8-dimethoxy-11H-s-triazolo[3,4-b][3]benzazepine. Colorless needles (as recrystallized from aqueous methanol), melting point: 185°-186° C.

reactant | 8-methoxy-3-methylsulfonyl-11H-s-triazolo[3,4-b][3]benzazepine | COC=1C=CC2=C(C=CN3C(C2)=NN=C3S(=O)(=O)C)C1 | C13H13N3O3S
reactant | sodium methoxide | C[O-].[Na+]
product | 3,8-dimethoxy-11H-s-triazolo[3,4-b][3]benzazepine | COC1=NN=C2CC3=C(C=CN21)C=C(C=C3)OC | C13H13N3O2
